US05436264
Proceeding as in Example 3, but replacing 2-[2-(cyclopropylmethyloxy)phenoxy]ethyl methanesulfonate with 2-(2-benzyloxyphenoxy)ethyl methanesulfonate and [2- (5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine with [2-(1H-indol-3yl)-1,1-dimethylethyl]amine, gave [2-(1H-indol-3-yl)-1,1-dimethylethyl]{2- (2-benzyloxyphenoxy)ethyl}amine hydrochloride, m.p. 148°-150° C.

reactant | 2-(2-benzyloxyphenoxy)ethyl methanesulfonate | CS(=O)(=O)OCCOC1=C(C=CC=C1)OCC1=CC=CC=C1 | C16H18O5S
reactant | [2- (5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine | ClC=1C=C2C(=CNC2=CC1)CC(C)(C)N | C12H15ClN2
reactant | [2-(1H-indol-3yl)-1,1-dimethylethyl]amine | N1C=C(C2=CC=CC=C12)CC(C)(C)N | C12H16N2
product | [2-(1H-indol-3-yl)-1,1-dimethylethyl]{2- (2-benzyloxyphenoxy)ethyl}amine hydrochloride | Cl.N1C=C(C2=CC=CC=C12)CC(C)(C)NCCOC1=C(C=CC=C1)OCC1=CC=CC=C1 | InChI=1S/C27H30N2O2.ClH/c1-27(2,18-22-19-28-24-13-7-6-12-23(22)24)29-16-17-30-25-14-8-9-15-26(25)31-20-21-10-4-3-5-11-21;/h3-15,19,28-29H,16-18,20H2,1-2H3;1H
